US03954754
EXAMPLE 73: 3-(2-Butylidenehydrazino)-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
0.5 g of 3-hydrazino-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine are heated in 5 cc of methylethyl ketone on a water bath for 1 hour. The title compound has a M.P. of 260°-262° (decomp., from methylethyl ketone).

reactant | 3-hydrazino-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 0.5 g | N(N)C1=CC2=C(N=N1)CCN(C2)C(C2=CC=C(C=C2)C2=CC=CC=C2)=O | C20H19N5O
solvent | methylethyl ketone | 5 cc | CC(=O)CC | C4H8O
product | 3-(2-Butylidenehydrazino)-6-(p-phenylbenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(CCC)=NNC1=CC2=C(N=N1)CCN(C2)C(C2=CC=C(C=C2)C2=CC=CC=C2)=O | C24H25N5O
